US07842685B2
To a 0° C. solution of methylmagnesium chloride 3.0 M in THF (99 mL, 298 mmol) in 100 mL THF under argon was added a solution of 2,6-dichloro-3-isothiocyanatopyridine (43.6 g, 213 mmol) in 100 mL THF slowly dropwise via addition funnel over 2 h. The resulting reaction mixture was allowed to stir 1 h, then was quenched by careful slow addition of sat'd aq. NH4Cl. The reaction mixture was allowed to warm to ambient temperature, and was transferred to a separatory funnel with 200 mL EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give a thick oil. The oil was taken up in 200 mL DMF and treated with sodium carbonate (34 g, 319 mmol). The reaction flask was fitted with an air cooled reflux condenser and the reaction mixture was heated to 90° C. under nitrogen. After 1 h, the reaction mixture was cooled slightly and poured into a stirring mixture of ice and water. The resulting slurry (total volume about 1.5 L) was stirred rapidly for 30 min, then filtered through a frit, rinsing with water, then dried in air and in vacuo to give 5-chloro-2-methylthiazolo[5,4-b]pyridine as a tan solid. MS (ESI) m/z: calculated: 184.0; Observed: 185.0 (M++1).

reactant | methylmagnesium chloride | 3.0 M | C[Mg]Cl
reactant | 2,6-dichloro-3-isothiocyanatopyridine | 213 mmol, 43.6 g | ClC1=NC(=CC=C1N=C=S)Cl | C6H2Cl2N2S
reactant | sodium carbonate | 319 mmol, 34 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | THF | 298 mmol, 99 mL | C1CCOC1 | C4H8O
product | 5-chloro-2-methylthiazolo[5,4-b]pyridine | ClC1=CC=C2C(=N1)SC(=N2)C | C7H5ClN2S
